* /Users/bubblegum/projects/le-ton-juste/docs/reverb-tank/stages/stage_06_full_tran.asc
* Generated by gen_stage6_full.py for installed LTspice 26 symbols.
.OPTIONS ALLOW_AMBIGUOUS_MODELS
Vsec_p ac_pos 0 SINE(0 21.2 60)
Vsec_n 0 ac_neg SINE(0 21.2 60)
DBR1a ac_pos pos_rect DN4007
DBR1b ac_neg pos_rect DN4007
DBR1c neg_rect ac_pos DN4007
DBR1d neg_rect ac_neg DN4007
C11 pos_rect 0 2200u
R_bleed1 pos_rect 0 10k
C12 neg_rect 0 2200u
R_bleed2 neg_rect 0 10k
XU4 pos_rect 0 reg_pos LM78xx
XU5 neg_rect 0 reg_neg LM79xx
C13 reg_pos 0 100u
C17 reg_pos 0 100n
C14 reg_neg 0 100u
C18 reg_neg 0 100n
RF2 reg_pos +15V 0.5
RF3 reg_neg -15V 0.5
C15 +15V 0 10u
C16 -15V 0 10u
C5 +15V 0 100n
C6 -15V 0 100n
C7 +15V 0 100n
C8 -15V 0 100n
V1 vin 0 SINE(0 100m 1k) AC 1
DTVS1a vin tvs_mid BZX84C15L
DTVS1b 0 tvs_mid BZX84C15L
C_in vin u1_pos 1u
R1 u1_pos 0 1Meg
Dclamp_p u1_pos +15V 1N4148
Dclamp_n -15V u1_pos 1N4148
X§U1 u1_pos u1_out +15V -15V u1_out level2 Avol=1Meg GBW=8Meg Slew=20Meg Ilimit=25m Rail=0 Rinc=1T Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R2 u1_out u1_buf 100
RV1a rv1_wiper 0 5k
RV1b u1_buf rv1_wiper 5k
C_drive rv1_wiper q1_drv 1u
R3b +15V q1_base 6.8k
R4 q1_base 0 1k
R3 q1_drv q1_base 1k
Q1 q1_c q1_base q1_e BD139
R5 q1_e 0 68
C2 q1_e 0 100u
D3 q1_c +15V 1N4148
L1 +15V q1_c 100m Rser=0
L2 tank_in 0 5m Rser=0
K1 L1 L2 0.98
R_tank_in tank_in 0 8
L_tank tank_in tank_mid 15m Rser=0
R_tank_mech tank_mid tk_a 200
L_tank_mech tk_a tk_b 500m Rser=0
C_tank_mech tk_b 0 10n
R_tank_out tank_mid tank_out 2550
L_tank_out tank_out 0 2 Rser=0
C3 tank_out u2_in_pos 470n
Rbias u2_in_pos 0 100k
X§U2 u2_in_pos u2_inv +15V -15V u2_out level2 Avol=1Meg GBW=8Meg Slew=20Meg Ilimit=25m Rail=0 Rinc=1T Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
Ri u2_inv 0 470
Rf u2_out u2_inv 100k
C4 u2_out hpf_out 100n
R6 hpf_out 0 5.6k
RV3a hpf_out rv3_wiper 50k
RV3b rv3_wiper 0 50k
Rdry u1_buf mix_dry 10k
RV2a mix_dry mix_node 50k
RV2b mix_node mix_wet 50k
C_bright mix_dry mix_wet 47p
Rwet_wire rv3_wiper mix_wet 0
X§U3 mix_node u3_out +15V -15V u3_out level2 Avol=1Meg GBW=8Meg Slew=20Meg Ilimit=25m Rail=0 Rinc=1T Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R7 u3_out v_out 100
Rload v_out 0 47k
.model D D
.lib standard.dio
.subckt LM78xx IN COM OUT
.param Vout=15
B1 OUT COM V=min(V(IN,COM)-2, {Vout})
.ends LM78xx
.subckt LM79xx IN COM OUT
.param Vout=15
B1 OUT COM V=max(V(IN,COM)+2, -{Vout})
.ends LM79xx
* BD139 driver model + zener/rectifier models + analysis directives
.model BD139 NPN(Is=1e-14 Bf=100 Vaf=50 Rb=1 Rc=0.1 Re=0.05 Cje=30p Cjc=15p)
.model BZX84C15L D(BV=15 N=1.6 Rs=2 IBV=5m Cjo=80p)
.model DN4007 D(Is=14.1n N=1.984 Rs=33.9m Ikf=94.8 Cjo=51.7p M=0.333 Vj=0.7 Bv=1000 Ibv=10u)
.tran 0 100m 0 5u
.meas TRAN vout_pk  MAX abs(V(v_out)) FROM=50m TO=100m
.meas TRAN rms_early RMS V(v_out) FROM=40m TO=50m
.meas TRAN rms_late  RMS V(v_out) FROM=90m TO=100m
.meas TRAN osc_ratio PARAM rms_late/rms_early
.lib UniversalOpAmp2.lib
.backanno
.end
